US07393366B2
0.5 g (1.5 mmol) of N,N-dimethyl-4-[1,3-thiazol-2-yldiazenyl]aniline are dissolved in 1-methyl-2-pyrrolidinone (NMP), and 0.9 g (7.5 mmol) of 1,3-propane sultone is added. The reaction mixture is heated at, 100° C. for 4 hours. After cooling, 20 ml of tetrahydrofuran are added to the reaction mixture and the precipitated product is filtered off, washed with acetone and dried. The resulting dye is recrystallized from methanol/ethyl acetate. 0.53 g (45% of theory) of 3-(2-{[4-(dimethylamino)phenyl]diazenyl}-1,3-thiazol-3-ium-3-yl)-1-propanesulfonate is obtained as a dark blue powder.

reactant | N,N-dimethyl-4-[1,3-thiazol-2-yldiazenyl]aniline | 1.5 mmol, 0.5 g | CN(C1=CC=C(C=C1)N=NC=1SC=CN1)C | C11H12N4S
reactant | 1,3-propane sultone | 7.5 mmol, 0.9 g | C1COS(=O)(=O)C1 | C3H6O3S
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 3-(2-{[4-(dimethylamino)phenyl]diazenyl}-1,3-thiazol-3-ium-3-yl)-1-propanesulfonate | 0.53 g, 45% | CN(C1=CC=C(C=C1)N=NC=1SC=C[N+]1CCCS(=O)(=O)[O-])C | C14H18N4O3S2
